* SPICE3 file created from cmos.ext - technology: sky130A

.subckt cmos VIN VOUT VP VN
X0 VOUT VIN VN VN sky130_fd_pr__nfet_01v8 ad=0.5 pd=3 as=0.5 ps=3 w=1 l=0.15
X1 VOUT VIN VP VP sky130_fd_pr__pfet_01v8 ad=0.5 pd=3 as=0.5 ps=3 w=1 l=0.15
.ends
